US07781436B2
4-(2,3-Dihydro-benzofuran-7-yl)-piperidine
To a solution of 1-benzyl-4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-1,2,3,6-tetrahydro-pyridine in EtOH and 4N HCl was added 40 wt % of 10% Pd/C catalyst. The reaction flask was charged with H2 (3.5 bar) and then stirred overnight at 50° C. The reaction mixture was filtered over Celite under argon. The solvents were evaporated and the product was partitioned between CH2Cl2 and aq. K2CO3. The organic phase was dried over Na2SO4 and evaporated to give the title compound in 81% yield.

reactant | 1-benzyl-4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-1,2,3,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC(=CC=2CCOC21)Br | C20H20BrNO
solvent | EtOH | CCO | C2H6O
solvent | HCl | 4N | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | 4-(2,3-Dihydro-benzofuran-7-yl)-piperidine | 81% yield | O1CCC2=C1C(=CC=C2)C2CCNCC2 | C13H17NO
